US04061656
2-Hydroxymethyl-3,4,5-trimethyl-thiophene
1.9 G. of 3,4,5-trimethyl-2-thiophenecarboxaldehyde were dissolved in 20 ml. of ethanol. The resulting solution was cooled to 0°-5° C. and 125 mg. of sodium borohydride were added in small portions. The resulting reaction mixture was stirred at room temperature for 3 hours, poured into ice water, extracted with ethyl acetate, dried with sodium sulfate, filtered and evaporated. The resulting crystalline 2-hydroxymethyl-3,4,5-trimethyl-thiophene had m.p. 45°-48° C.

reactant | 3,4,5-trimethyl-2-thiophenecarboxaldehyde | CC1=C(SC(=C1C)C)C=O | C8H10OS
reactant | sodium borohydride | [BH4-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-Hydroxymethyl-3,4,5-trimethyl-thiophene | OCC=1SC(=C(C1C)C)C | C8H12OS
